US04195040
To a flask equipped with an oxygen inlet, stirrer and condenser were added 2,3,4,6-tetramethylbenzaldehyde (8.10 g, 50 mmol), 20 mL (0.194 mol) of cyclohexanone and 4 mg of cobalt (II) acetate dissolved in several drops of acetic acid. Oxygen was bubbled in while the solution was rapidly stirred. After 21/2 hr at room temperature and 4 hr at 50° the solution was poured into a separatory funnel and extracted with 100 mL, then 50 mL, of 3% aqueous sodium bicarbonate solution. The combined aqueous extracts were rinsed with 50 mL of cyclohexane, then acidified to a pH of 2 with concentrated hydrochloric acid and the precipitated product was collected by filtration, washed with water and air dried. A total of 5.2 g (58% yield) of fluffy white 2,3,4,6-tetramethylbenzoic acid was obtained: mp 164°-167°.

reactant | 2,3,4,6-tetramethylbenzaldehyde | 50 mmol, 8.10 g | CC1=C(C=O)C(=CC(=C1C)C)C | C11H14O
reactant | cyclohexanone | 0.194 mol, 20 mL | C1(CCCCC1)=O | C6H10O
catalyst | acetic acid | several drops | C(C)(=O)O | C2H4O2
catalyst | cobalt (II) acetate | 4 mg | C(C)(=O)[O-].[Co+2].C(C)(=O)[O-]
product | 2,3,4,6-tetramethylbenzoic acid | 5.2 g, 58% yield | CC1=C(C(=O)O)C(=CC(=C1C)C)C | C11H14O2
